US06956042B2
1-(3-Pyridyl)-1,7-diazaspiro[4.4]nonane dihydrochloride
A solution of tert-butyl 6-(3-pyridyl)-2,6-diazaspiro[4.4]nonane-2-carboxylate (100 mg, 0.330 mmol) in dichloromethane (5 mL) was rapidly stirred with 1 mL of 12 M hydrochloric acid at ambient temperature for 1 h, during which time the biphasic mixture became monophasic. The dichloromethane was evaporated, and the residue was dissolved in water (3 mL) and made strongly basic (pH 9) with potassium carbonate. The mixture was saturated with sodium chloride and extracted with chloroform (4×10 mL). The extracts were dried (K2CO3) and concentrated, first by rotary evaporation and then by high vacuum treatment. The viscous brown oil which resulted was 98% pure by GCMS and weighed 50 mg (73%). A sample of this free base (40 mg, 020 mmol)was dissolved in 10 drops of 12 M hydrochloric acid. The water was azeotropically removed by repeated treatment with small volumes of ethanol (˜5 mL) and rotary evaporation. The resulting solid was recrystallized from hot isopropanol to give 40 mg (72%) of fine tan crystals (mp 170-175° C.).

reactant | tert-butyl 6-(3-pyridyl)-2,6-diazaspiro[4.4]nonane-2-carboxylate | 0.330 mmol, 100 mg | N1=CC(=CC=C1)N1C2(CCN(C2)C(=O)OC(C)(C)C)CCC1 | C17H25N3O2
reactant | hydrochloric acid | 12 M, 1 mL | Cl | ClH
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
catalyst | hydrochloric acid | 12 M, 10 drops | Cl | ClH
product | 1-(3-Pyridyl)-1,7-diazaspiro[4.4]nonane dihydrochloride | 40 mg, 72% | Cl.Cl.N1=CC(=CC=C1)N1CCCC12CNCC2 | InChI=1S/C12H17N3.2ClH/c1-3-11(9-13-6-1)15-8-2-4-12(15)5-7-14-10-12;;/h1,3,6,9,14H,2,4-5,7-8,10H2;2*1H
